US04642308
The procedure is similar to that described in Example 1, but starting with 3-thiophenecarboxylic acid (5 g), N,N'-carbonyldiimidazole (6.3 g) and 2-amino-7-phenoxy-1,8-naphthyridine (8.3 g). The product produced by precipitation in water (11.6 g; m.p. 110° C.) is dissolved in boiling acetonitrile (50 cc). After 2 hours' cooling at 4° C., the crystallised solid is separated by filtration, washed with diisopropyl ether (3×10 cc) and dried at 35° C. under reduced pressure (0.067 kPa). N-(7-Phenoxy-1,8-naphthyridin-2-yl)-3-thiophenecarboxamide (8.2 g) is produced, m.p. 95° C.

reactant | 3-thiophenecarboxylic acid | 5 g | S1C=C(C=C1)C(=O)O | C5H4O2S
reactant | 2-amino-7-phenoxy-1,8-naphthyridine | 8.3 g | NC1=NC2=NC(=CC=C2C=C1)OC1=CC=CC=C1 | C14H11N3O
reactant | acetonitrile | 50 cc | C(C)#N | C2H3N
solvent | water | 11.6 g | O | H2O
product | N-(7-Phenoxy-1,8-naphthyridin-2-yl)-3-thiophenecarboxamide | 8.2 g | O(C1=CC=CC=C1)C1=CC=C2C=CC(=NC2=N1)NC(=O)C1=CSC=C1 | C19H13N3O2S
